US04602014
To a solution of 0.29 g of 2-p-chlorophenyl-2,3,5,6,7,9-hexahydrothiopyrano[4,3-b]pyrazolo[3,4-d]pyridin-3-one in a mixture of 9.2 mL of 0.1N sodium hydroxide aqueous solution and 15 mL of water, 0.215 g of sodium metaperiodate is added under stirring and ice-cooling. The reaction mixture is stirred at room temperature overnight, the pH of the solution is adjusted to around 4 by adding dilute hydrochloric acid to precipitate a yellow solid. Solid is collected, washed with water, air-dried, triturated with hot ethyl acetate and dried in a vacuum oven at 80° overnight obtaining 2-p-chlorophenyl-2,3,5,6,7,9-hexahydro-8-oxo-thiopyrano[4,3-b]pyrazolo[3,4-d]pyridin-3-one, m.p. 298°-300° (dec).

reactant | 2-p-chlorophenyl-2,3,5,6,7,9-hexahydrothiopyrano[4,3-b]pyrazolo[3,4-d]pyridin-3-one | 0.29 g | ClC1=CC=C(C=C1)N1N=C2C3=C(NC=C2C1=O)CCSC3 | C15H12ClN3OS
reactant | sodium metaperiodate | 0.215 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.1N, 9.2 mL | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
product | 2-p-chlorophenyl-2,3,5,6,7,9-hexahydro-8-oxo-thiopyrano[4,3-b]pyrazolo[3,4-d]pyridin-3-one | ClC1=CC=C(C=C1)N1N=C2C3=C(NC=C2C1=O)CCS(C3)=O | C15H12ClN3O2S
